US09422307B2
Step 6: 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide
3-(4-Amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)benzoic acid (300 mg, 0.98 mmol) was dissolved in N,N-dimethylformamide (5 mL) and then methylamine hydrochloride (329 mg, 4.91 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (282 mg, 1.47 mmol), hydroxybenzotriazole (239 mg, 1.76 mmol) and trimethylamine (0.889 mL, 6.38 mmol) were added. The reaction mixture was stirred at room temperature for a day. The reaction mixture was diluted with ethyl acetate and then washed with ammonium chloride aqueous solution. The organic layer was dried with magnesium sulfate, filtered with celite and then concentrated. Purification by chromatography (1/4 ethyl acetate/hexane) yielded the target compound (280 mg, 89% yield).

reactant | 3-(4-Amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)benzoic acid | 0.98 mmol, 300 mg | NC=1C2=C(N=C(N1)Cl)C(=CS2)C=2C=C(C(=O)O)C=CC2 | C13H8ClN3O2S
reactant | methylamine hydrochloride | 4.91 mmol, 329 mg | Cl.CN
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 1.47 mmol, 282 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 1.76 mmol, 239 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | trimethylamine | 6.38 mmol, 0.889 mL | CN(C)C | C3H9N
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-amino-2-chlorothieno[3,2-d]pyrimidin-7-yl)-N-methylbenzamide | 280 mg, 89% yield | NC=1C2=C(N=C(N1)Cl)C(=CS2)C=2C=C(C(=O)NC)C=CC2 | C14H11ClN4OS
